US08431597B2
(2R,4R)-tert-butyl 2-((2-amino-phenyl)carbamoyl)-4-(3-(4-cyanophenyl)ureido)piperidine-1-carboxylate
Benzene-1,2-diamine (365 mg, 3.38 mmol) was added to a mixture of (2R,4R)-1-(tert-butoxycarbonyl)-4-(3-(4-cyanophenyl)ureido)piperidine-2-carboxylic acid (1400 mg, 3.60 mmol), BOP (1600 mg, 3.6 mmol) and DIEA (1.2 mL, 6.9 mmol) in DMF (20 mL), and the resulting solution was stirred at room temperature for 8 hours. Water (100 mL) was added to the reaction mixture and it was then extracted with ethyl acetate (2×200 mL). The organic layers were dried over MgSO4 and concentrated to give a red solid. Further purification by Companion (ReadySep, 80 g, silica gel packed) using ethyl acetate/heptane from 50-80% as eluent provided the title compound as a white solid 1600 mg (93%). LC-MS: 479.1, 477.2 (t=2.3 min).

reactant | Benzene-1,2-diamine | 3.38 mmol, 365 mg | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | (2R,4R)-1-(tert-butoxycarbonyl)-4-(3-(4-cyanophenyl)ureido)piperidine-2-carboxylic acid | 3.60 mmol, 1400 mg | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](CC1)NC(=O)NC1=CC=C(C=C1)C#N)C(=O)O | C19H24N4O5
reactant | BOP | 3.6 mmol, 1600 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 6.9 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Water | 100 mL | O | H2O
product | (2R,4R)-tert-butyl 2-((2-amino-phenyl)carbamoyl)-4-(3-(4-cyanophenyl)ureido)piperidine-1-carboxylate | 1600 mg, 93% | NC1=C(C=CC=C1)NC(=O)[C@@H]1N(CC[C@H](C1)NC(=O)NC1=CC=C(C=C1)C#N)C(=O)OC(C)(C)C | C25H30N6O4
